US06107346
1-Oxo-2-(4-Methoxybenzoyl)-5-Methoxyindane
A solution of 22.2 g (137 mmol) of 1-oxo-5-methoxyindane in tetrahydrofuran was added dropwise to a cold suspension of 11 g (274 mmol) of sodium amide in tetrahydrofuran. The resulting mixture was stirred for ten minutes and a solution of 31.3 g (137 mmol) of phenyl-4-methoxybenzoate in tetrahydrofuran was added. Cooling was discontinued and a slight exothermic reaction occurred. The mixture was stirred at ambient temperature for an additional two hours. A thick precipitate developed and the reaction mixture was poured into ice-water. The aqueous mixture was extracted with ethyl acetate. The ethyl acetate extract was evaporated to dryness to obtain 20.7 g of the title compound. mp: 160° C.-162° C.

reactant | 1-oxo-5-methoxyindane | 137 mmol, 22.2 g | O=C1CCC2=CC(=CC=C12)OC | C10H10O2
reactant | sodium amide | 274 mmol, 11 g | [NH2-].[Na+]
reactant | phenyl-4-methoxybenzoate | 137 mmol, 31.3 g | C1(=CC=CC=C1)OC(C1=CC=C(C=C1)OC)=O | C14H12O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Oxo-2-(4-Methoxybenzoyl)-5-Methoxyindane | 20.7 g | O=C1C(CC2=CC(=CC=C12)OC)C(C1=CC=C(C=C1)OC)=O | C18H16O4
